US06660753B2
A mixture of 3-(5-fluoropyrid-2-yl)-5-(3-cyano-5-nitrophenyl) -1,2,4-oxadiazole (30 mg, 0.11 mmol), potassium carbonate (29 mg, 0.21 mmol) and ethyl iodide (98 μL, 1.2 mmol) in N,N-dimethylformamide (1 mL) was heated in a sealed vial at 140° C. for 2 hours. The reaction was cooled, diluted with ethyl acetate, washed with water (3×) and saturated brine, filtered and concentrated. Silica gel chromatography using hexanes:ethyl acetate:dichloromethane 3:1:4 afforded 6 mg (38%) of 3-(5-fluoropyrid-2-yl)-5-(3-cyano-5-ethylaminophenyl)-1,2,4-oxadiazole: 1H NMR (CDCl3), δ (ppm): 8.69 (d, 1H), 8.26 (dd, 1H), 7.80 (s, 1H), 7.61 (m, 2H), 6.99 (s, 1H), 4.12 (br, s, 1H), 3.26 (q, 2H), 1.32 (t, 3H).

reactant | 3-(5-fluoropyrid-2-yl)-5-(3-cyano-5-nitrophenyl) -1,2,4-oxadiazole | 0.11 mmol, 30 mg | FC=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)[N+](=O)[O-])C#N | C14H6FN5O3
reactant | potassium carbonate | 0.21 mmol, 29 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 1.2 mmol, 98 μL | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(5-fluoropyrid-2-yl)-5-(3-cyano-5-ethylaminophenyl)-1,2,4-oxadiazole | 6 mg, 38% | FC=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)NCC)C#N | C16H12FN5O
